US07067520B2
3.0 g of 2-cyano-3,3-bismethylthio-2-propenoic acid methyl ester, 1.3 g of 3-aminopyrazole and 20 ml of ethanol were stirred under reflux with heating for about 2.5 hours and then cooled to room temperature, and the precipitated crystals were collected by filtration. The collected crystals were washed with ethanol and then dried to obtain 1.69 g of 7-hydroxy-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile (compound No. 49) having a melting point of over 250° C.

reactant | 2-cyano-3,3-bismethylthio-2-propenoic acid methyl ester | 3.0 g | COC(C(=C(SC)SC)C#N)=O | C7H9NO2S2
reactant | 3-aminopyrazole | 1.3 g | NC1=NNC=C1 | C3H5N3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 7-hydroxy-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile | 1.69 g | OC1=C(C(=NC=2N1N=CC2)SC)C#N | C8H6N4OS
